US06248755B1
Step C: 2-Ethyl-3-(4-pyridyl)-imidazo[1,2-a]pyridine
To a solution of 3-bromo-2-ethyl-imidazo[1,2-a]pyridine (1.4 g, 6.28 mmol), 4-tributylstannylpyridine (2.31 g, 6.28 mmol) and Pd (II) (Ph3P)2Cl2 (442 mg, 0.63 mmol) in toluene (5 mL) was added LiCl (26.7 mg, 0.63). After refluxing for 18 h, the mixture was partitioned between EtOAc and aqueous NaHCO3. The aqueous layer was extracted with EtOAc (3×). Combined organic phase was washed with brine and dried over anhydrous MgSO4. Concentration followed by flash chromatography eluting with 100% EtOAc, then 10% MeOH in CH2Cl2 afforded the title compound (543 mg) as a viscous oil. 1H NMR (500 MHz, CDCl3): δ 1.36 (t, J=7.5 Hz, 3H), 2.84 (q, J=7.5 Hz, 2H), 6.68 (dt, J=6.8, 1.1 Hz, 1H), 7.21 (m, 1H), 7.39 (dd, J=5.9, 1.6 Hz, 2H), 7.61 (dd, J=8.9, 1.0 Hz, 1H), 8.75 (d, J=5.9 Hz, 2H).

reactant | 3-bromo-2-ethyl-imidazo[1,2-a]pyridine | 6.28 mmol, 1.4 g | BrC1=C(N=C2N1C=CC=C2)CC | C9H9BrN2
reactant | 4-tributylstannylpyridine | 6.28 mmol, 2.31 g | C(CCC)[Sn](C1=CC=NC=C1)(CCCC)CCCC
reactant | LiCl | 26.7 mg | [Li+].[Cl-]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd | 0.63 mmol, 442 mg | [Pd] | Pd
product | 2-Ethyl-3-(4-pyridyl)-imidazo[1,2-a]pyridine | 543 mg | C(C)C=1N=C2N(C=CC=C2)C1C1=CC=NC=C1 | C14H13N3
